US07105707B2
The procedure was identical to Example 1, with the exception that 2-furonitrile (0.175 ml; 0.186 g; 2.00 mmol) was used as a substrate instead of benzonitrile. GC analysis of the organic phase of the hydrolyzed reaction sample after 18 h at 65° C. showed the presence of 1.26 mmol (74% yield) of 2-(phenylethynyl)furan and no remaining 2-furonitrile in the reaction mixture.

reactant | 2-furonitrile | 2.00 mmol, 0.175 ml, 0.186 g | O1C(=CC=C1)C#N | C5H3NO
reactant | benzonitrile | C(C1=CC=CC=C1)#N | C7H5N
product | 2-(phenylethynyl)furan | 1.26 mmol, 74% yield | C1(=CC=CC=C1)C#CC=1OC=CC1 | C12H8O
